US08008298B2
A solution of 1-[2-[3-(3-hydroxy-azetidin-1-yl)-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (36 mg, 0.075 mmol), in MeOH (1 ml), was treated with 18.5% HCl aq (1.75 ml). The reaction mixture was capped and heated to 90° C. for 1.5 hours. The reaction mixture was concentrated to dryness, and the resulting residue was taken up in 10 ml of EtOAc and 5 ml of sat. NaHCO3 aq. The reaction mixture was allowed to stir for 15 minutes and then extracted into EtOAc. The organic layers were collected, dried over MgSO4, filtered, concentrated. Silica gel chromatography using 0-10% MeOH in EtOAc as eluant gave 10 mg (35%) of 1-{2-[3-(3-chloro-2-hydroxy-propylamino)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one as a yellow solid. M+H=387.

reactant | 1-[2-[3-(3-hydroxy-azetidin-1-yl)-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.075 mmol, 36 mg | OC1CN(C1)C=1C=C(C=CC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C26H36N4O3Si
reactant | HCl | 1.75 ml | Cl | ClH
solvent | MeOH | 1 ml | CO | CH4O
product | 1-{2-[3-(3-chloro-2-hydroxy-propylamino)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | 10 mg, 35% | ClCC(CNC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O)O | C20H23ClN4O2
